US07202251B2
Step A. Ethyl 4-[(2-nitrophenyl)amino]benzoate
A mixture of ethyl 4-aminobenzoate (1.00 g, 6.05 mmol) and 2-fluoronitrobenzene (0.64 mL, 6.05 mmol) was heated at 160° C. for 18 h. The crude product was purified by silica gel chromatography, eluting with hexane:EtOAc—70:30, to give the title compound. MS: m/z=287 (M+1).

reactant | ethyl 4-aminobenzoate | 6.05 mmol, 1.00 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 2-fluoronitrobenzene | 6.05 mmol, 0.64 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
product | Ethyl 4-[(2-nitrophenyl)amino]benzoate | [N+](=O)([O-])C1=C(C=CC=C1)NC1=CC=C(C(=O)OCC)C=C1 | C15H14N2O4
